US04170584
Hexanediol Difuroate
Furoyl chloride 121 g (0.93 m) added to 52 g (0.44 m) hexanediol, 133 g (1.3 m) triethylamine and 485 g methylene chloride at 5°-10°. Yield of 92 g recrystallized from isopropyl alchol, 69°-71° m.p.

reactant | Furoyl chloride | 121 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | hexanediol | 52 g | C(CCCCC)(O)O | C6H14O2
reactant | triethylamine | 133 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 485 g | C(Cl)Cl | CH2Cl2
product | Hexanediol Difuroate | O1C(=CC=C1)C(=O)OC(CCCCC)OC(=O)C=1OC=CC1 | C16H18O6
